US07897607B2
3-(2,4-Dimethylphenyl)-1-methyl-5-nitropyridin-2(1H)-one
A mixture containing 0.40 g (1.72 mmol) of 3-bromo-1-methyl-5-nitropyridin-2(1H)-one, 0.39 g (2.60 mmol) of 2,4-dimethylphenyl boronic acid, 0.70 g (5.06 mmol) of potassium carbonate, 0.31 ml (17.22 mmol) of water, and 0.99 g (0.86 mmol) of tetrakis(triphenylphosphine)palladium(0) in 80 ml of dioxane was heated to 90° C. under a nitrogen atm. overnight. The reaction was cooled to room temperature, diluted with ethyl acetate and washed with saturated sodium bicarbonate. The organic phase was dried over magnesium sulfate. Filtration, removal of solvent and purification of the residue via biotage eluting with 60% ethyl acetate/hexanes gave 0.37 g (82.55%) of product.

reactant | 3-bromo-1-methyl-5-nitropyridin-2(1H)-one | 1.72 mmol, 0.40 g | BrC=1C(N(C=C(C1)[N+](=O)[O-])C)=O | C6H5BrN2O3
reactant | 2,4-dimethylphenyl boronic acid | 2.60 mmol, 0.39 g | CC1=C(C=CC(=C1)C)B(O)O | C8H11BO2
reactant | potassium carbonate | 5.06 mmol, 0.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 17.22 mmol, 0.31 ml | O | H2O
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.86 mmol, 0.99 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2,4-Dimethylphenyl)-1-methyl-5-nitropyridin-2(1H)-one | 0.37 g, 82.55% | CC1=C(C=CC(=C1)C)C=1C(N(C=C(C1)[N+](=O)[O-])C)=O | C14H14N2O3
